US08383827B2
Step 2: N-((5-(4-cyano-2-methoxyphenyl)pyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide
Titanium isopropoxide (1.1 mL, 3.77 mmol) was added to a mixture of 4-(5-formyl-pyridin-3-yl)-3-methoxy-benzonitrile (449 mg, 1.88 mmol) and ethanesulfonamide (226 mg, 2.07 mmol) in toluene (10 mL) at room temperature. The resulting mixture was heated to reflux for 2 h. After concentration, the residue was dissolved in THF (7 mL) and a solution of c-PrMgBr (0.5 M in THF, 18.8 mL, 9.42 mmol) was added dropwise at −40° C. The resulting mixture was stirred at −36° C. for 1 h. Saturated NH4Cl solution was added to the reaction mixture. The resulting mixture was diluted with ethyl acetate and brine and subsequently filtered. The organic layer was separated and concentrated. The residue was purified by flash column (EtOAc/Heptane=0-60%) to give the title compound (182 mg, 26% yield); ESI-MS m/z: 372 [M+1]; 1H-NMR (MeOD, 400 MHz) δ 8.59 (1H, d, J=2.0 Hz), 8.57 (1H, d, J=2.0 Hz), 8.07 (1H, t, J=2.0 Hz), 7.54 (1H, d, J=7.6 Hz), 7.49 (1H, s), 7.45 (1H, d, J=7.6 Hz), 7.42 (1H, d, 0.1=8.4 Hz), 3.89 (3H, s), 3.88 (1H, d, J=9.2 Hz), 3.01-2.88 (2H, m), 1.30-1.25 (1H, m), 1.25 (1H, t, J=7.2 Hz), 0.77-0.70 (1H, m), 0.64-0.54 (2H, m), 0.48-0.42 (1H, m)

reactant | 4-(5-formyl-pyridin-3-yl)-3-methoxy-benzonitrile | 1.88 mmol, 449 mg | C(=O)C=1C=C(C=NC1)C1=C(C=C(C#N)C=C1)OC | C14H10N2O2
reactant | ethanesulfonamide | 2.07 mmol, 226 mg | C(C)S(=O)(=O)N | C2H7NO2S
reactant | NH4Cl | [NH4+].[Cl-]
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | Titanium isopropoxide | 3.77 mmol, 1.1 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-((5-(4-cyano-2-methoxyphenyl)pyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide | 182 mg, 26% yield | C(#N)C1=CC(=C(C=C1)C=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CC1)OC | C19H21N3O3S
